US05726186
6-Methoxy-1-[(4-hydroxy)phenyl]imino-1,2,3,4-tetrahydronaphthalene
A mixture of 6-methoxytetralone (25 g, 142 mmol) and 4-hydroxyaniline (16.3 g, 149 mmol) was heated to 180° C. under a nitrogen stream for 2 h. After cooling to ambient temperature, the solid mass was recrystallized from toluene/methanol: 1H NMR (300 MHz) d 8.15 (d, J=9.7 Hz, 1H), 6.5-7.9 (m, 6H), 3.80 (s, 3H), 2.84 (t, J=7.3 Hz, 2H), 2.51 (t, J=6.8 Hz, 2H), 1.85 (m, 2H).

reactant | 6-methoxytetralone | 142 mmol, 25 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 4-hydroxyaniline | 149 mmol, 16.3 g | OC1=CC=C(N)C=C1 | C6H7NO
product | 6-Methoxy-1-[(4-hydroxy)phenyl]imino-1,2,3,4-tetrahydronaphthalene | COC=1C=C2CCCC(C2=CC1)=NC1=CC=C(C=C1)O | C17H17NO2
